US09382197B2
To a 100-mL round-bottom flask was added THF (25 mL). The solvent was bubbled with nitrogen for a few minutes then cooled to 0° C. and added bis(triphenylphosphine)palladium(II) chloride (0.44 g, 0.63 mmol) followed by 4-(ethoxycarbonyl)phenylzinciodide (25.0 mL, 12.5 mmol; 0.50 M in THF). After stirred at at 0° C. for 15 min, isobutyryl chloride (1.32 mL, 12.5 mmol) was added and the resulting mixture was stirred at 0° C. for 2 h. The reaction was quenched with slow addition of 1 N HCl and extracted with EtOAc (3×100 mL). After separation, combined organic extracts were washed with sat. NaHCO3, water, brine, dried (MgSO4), and concentrated. Flash column chromatography (EtOAc:hexanes, 0:1 to 1:9) afforded ethyl 4-isobutyrylbenzoate (2.49 g, 90%) as a slight-brown oil. LC-MS: (FA) ES+ 221; 1H NMR (CDCl3, 400 MHz) δ8.13 (d, J=8.5 Hz, 2H), 7.99 (d, J=8.5 Hz, 2H), 4.40 (q, J=7.2 Hz, 2H), 3.56 (m, 1H), 1.42 (t, J=7.2 Hz, 3H), 1.23 (d, J=7.2 Hz, 6H).

reactant | 4-(ethoxycarbonyl)phenylzinciodide | 12.5 mmol, 0.50 M, 25.0 mL | [I-].C(C)OC(=O)C1=CC=C(C=C1)[Zn+]
reactant | isobutyryl chloride | 12.5 mmol, 1.32 mL | C(C(C)C)(=O)Cl | C4H7ClO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.63 mmol, 0.44 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | ethyl 4-isobutyrylbenzoate | 2.49 g, 90% | C(C(C)C)(=O)C1=CC=C(C(=O)OCC)C=C1 | C13H16O3
